US07179934B2
(3R)-(3,7-Dimethyl-oct-6-enyl)-cyclohexane
A flask was charged with 100 mL of dry THF and cooled to 0° C. To this flask was added 103 mL (205 mmol) of 2 M cyclohexylmagnesium chloride in diethylether. Then 2.30 g (17 mmol) copper (II) chloride was taken up in 60 mL of THF and added as a slurry to the Grignard reagent. To this mixture was added 0.73 g (17.1 mmol) lithium chloride, and the mixture was stirred at 0° C. for 30 minutes. Then 13.5 mL (68.4 mmol) of (S)-citronellyl bromide was added, and the mixture was stirred 2 hours at 0° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction was quenched by the addition of sat. aq. NH4Cl until bubbling ceased. The THF was removed under reduced pressure. The residue was taken up in water and extracted with diethyl ether. The combined ether layers were dried over MgSO4. The drying agent was removed by filtration. The solvent was removed under reduced pressure to yield 11.48 g (76% yield) of a clear oil. The crude long-chain alkyl was not readily characterized, and was carried on without further purification.

reactant | cyclohexylmagnesium chloride | 205 mmol, 2 M, 103 mL | C1(CCCCC1)[Mg]Cl
reactant | lithium chloride | 17.1 mmol, 0.73 g | [Cl-].[Li+]
reactant | (S)-citronellyl bromide | 68.4 mmol, 13.5 mL | C(C[C@@H](C)CCC=C(C)C)Br | C10H19Br
solvent | diethylether | C(C)OCC | C4H10O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | copper (II) chloride | 17 mmol, 2.30 g | [Cu](Cl)Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (3R)-(3,7-Dimethyl-oct-6-enyl)-cyclohexane | 11.48 g, 76% yield | C[C@H](CCC1CCCCC1)CCC=C(C)C | C16H30
